US05763635
Ethyl (E)-4-[-2-(5,6-dihydro-5,5-dimethyl-8-(ethylthio)-naphthalen-2-yl)ethenyl]benzoate (Compound A20)
To a degassed solution of 0.50 g (1.7 mmol) of 2-bromo-5,6-dihydro-5,5-dimethyl-8-(ethylthio)-naphthalene (Compound A36) and 0.45 g (2.5 mmol) of ethyl 4-vinylbenzoate in 4.0 mL of triethylamine, was added 109 mg (0.36 mmol) of tri-o-tolylphosphine and then 35 mg (0.16 mmol) of palladium(II) acetate. The reaction was heated at 90° C. for 2.25 h. The reaction was concentrated in vacuo and purified by flash chromatography (silica, 2% ethyl acetate in hexane) to afford the title compound as a colorless oil.

reactant | 2-bromo-5,6-dihydro-5,5-dimethyl-8-(ethylthio)-naphthalene | 1.7 mmol, 0.50 g | BrC1=CC=2C(=CCC(C2C=C1)(C)C)SCC | C14H17BrS
reactant | ethyl 4-vinylbenzoate | 2.5 mmol, 0.45 g | C(=C)C1=CC=C(C(=O)OCC)C=C1 | C11H12O2
reactant | tri-o-tolylphosphine | 0.36 mmol, 109 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | triethylamine | 4.0 mL | C(C)N(CC)CC | C6H15N
catalyst | palladium(II) acetate | 0.16 mmol, 35 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Ethyl (E)-4-[-2-(5,6-dihydro-5,5-dimethyl-8-(ethylthio)-naphthalen-2-yl)ethenyl]benzoate | CC1(C=2C=CC(=CC2C(=CC1)SCC)/C=C/C1=CC=C(C(=O)OCC)C=C1)C | C25H28O2S
